US05223518
Step d: 1-(4-Dimethylaminophenyl)-3-(4-pyridinyl)-2-propyne-1-one
Place pyridinium dichromate (1.75 g) and methylene chloride (20 mL) under argon atmosphere and cool to 0° C. Add a 1:1 mixture of 4-dimethylamino-α-[(4-pyridinyl)ethynyl]-benzenemethanol and 4-dimethylamino-α-(ethynyl)-benzenemethanol (0.8 g). Stir overnight while slowly warming to room temperature. Dilute with ethyl ether and filter the chromium salts. Purify by silica gel chromatography (2:1 ethyl acetate/hexane) to yield 0.94 g of the title compound; mp 143°-145° C.

reactant | pyridinium dichromate | 1.75 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
reactant | 4-dimethylamino-α-[(4-pyridinyl)ethynyl]-benzenemethanol | CN(C1=CC=C(C=C1)C(O)C#CC1=CC=NC=C1)C | C16H16N2O
reactant | 4-dimethylamino-α-(ethynyl)-benzenemethanol | 0.8 g | CN(C1=CC=C(C=C1)C(O)C#C)C | C11H13NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-(4-Dimethylaminophenyl)-3-(4-pyridinyl)-2-propyne-1-one | 0.94 g | CN(C1=CC=C(C=C1)C(C#CC1=CC=NC=C1)=O)C | C16H14N2O
